US06133303
6-[2-(2-Methyl-imidazole-1-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 1, Step 2, 6-(β-chloroethoxy)-1-tetralone (0.208 g, 0.93 mmol) and 2-methylimidazole (0.137 g, 1.67 mmol) were reacted to provide the title compound (0.166 g, 66%) as a cream colored solid: CI-MS m/e 270 (M+), 271 (M+ +1); 1H-NMR (CDCl3): δ 7.94 (1H, d, J=8.0 Hz), 6.88 (2H, s), 6.72 (1H, dd, J=8.0 Hz, J=2.0 Hz), 6.60 (1H, d, J=2 Hz), 4.21 (4H, m), 2.85 (2H, t, J=6.0 Hz), 2.55 (2H, t, J=6.0 Hz), 2.41 (3H, s), 2.05 (2H, m).

reactant | 6-(β-chloroethoxy)-1-tetralone | 0.93 mmol, 0.208 g | ClCCOC=1C=C2CCCC(C2=CC1)=O | C12H13ClO2
reactant | 2-methylimidazole | 1.67 mmol, 0.137 g | CC=1NC=CN1 | C4H6N2
product | 6-[2-(2-Methyl-imidazole-1-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one | 0.166 g, 66% | CC=1N(C=CN1)CCOC=1C=C2CCCC(C2=CC1)=O | C16H18N2O2
